US09359352B2
Synthesis of 6-chloropyridine-2,3-diamine (E-24)
A mixture of 6-chloro-2-nitropyridin-3-amine (E-23) (8.8 g, 51 mmol, 1.0 eq) and Raney nickel (0.88 g) in Methanol (100 mL) was stirred under hydrogen at RT for 24 h, then filtered and the filtrate was concentrated in vacuo to afford the desired product 6-chloropyridine-2,3-diamine (E-24) (7 g, 95.6% yield) as a pale solid. ESI-MS m/z: 144.05[M+H]+.

reactant | 6-chloro-2-nitropyridin-3-amine | 51 mmol, 8.8 g, 1.0 eq | ClC1=CC=C(C(=N1)[N+](=O)[O-])N | C5H4ClN3O2
catalyst | Raney nickel | 0.88 g | [Ni] | Ni
solvent | Methanol | 100 mL | CO | CH4O
product | 6-chloropyridine-2,3-diamine | 7 g, 95.6% yield | ClC1=CC=C(C(=N1)N)N | C5H6ClN3
